US05977178
(2E)-5-Amino-5-methylhex-2-enoic acid N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)-2-(2-naphthyl)ethyl)amide (318 mg, 0.60 mmol) was dissolved in methanol (20 ml) and glacial acetic acid (0.48 ml, 8.4 mmol). 3 Å mol sieves (9 g) and a solution of (2R)-2-(tert-butyldimethylsilyloxy)propanal (1.33 g, 7.06 mmol) in methanol (10 ml) were added successively. Sodium cyanoborohydride (220 mg, 3.53 mmol) was added as a solid. The reaction mixture was stirred at room temperature for 45 min, before a second batch of sodium cyanoborohydride (220 mg, 3.53 mmol) was added. The reaction mixture was stirred for 16 h at room temperature. The mol sieves was filtered off through a plug of celite. The celite was washed with methanol (200 ml). The solvents of the combined filtrates were removed in vacuo. The residue was dissolved in 1 N sodium hydroxide solution (50 ml) and tert-butyl methyl ether (50 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (3×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (35 g), using ethyl acetate/heptane/triethylamine (20:10:1) as eluent, to give 99 mg of (2R)-2-(N-((2R)-2-(N-((2E)-5-((2R)-2-(tert-butyldimethylsilyloxy)propylamino)-5-methylhex-2-enoyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-N-methyl-3-phenylpropionamide.

reactant | (2E)-5-Amino-5-methylhex-2-enoic acid N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)-2-(2-naphthyl)ethyl)amide | 0.60 mmol, 318 mg | CN(C(\C=C\CC(C)(C)N)=O)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O | C32H40N4O3
reactant | acetic acid | 8.4 mmol, 0.48 ml | C(C)(=O)O | C2H4O2
reactant | (2R)-2-(tert-butyldimethylsilyloxy)propanal | 7.06 mmol, 1.33 g | [Si](C)(C)(C(C)(C)C)O[C@@H](C=O)C | C9H20O2Si
reactant | Sodium cyanoborohydride | 3.53 mmol, 220 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 3.53 mmol, 220 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | (2R)-2-(N-((2R)-2-(N-((2E)-5-((2R)-2-(tert-butyldimethylsilyloxy)propylamino)-5-methylhex-2-enoyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-N-methyl-3-phenylpropionamide | 99 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(C/C=C/C(=O)N(C)[C@@H](C(=O)N(C)[C@@H](C(=O)NC)CC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1)(C)C)C | C41H60N4O4Si
